US06683096B2
A mixture containing 0.79 g (4.1 mmol) of 4-hydroxy-benzoic acid tert-butyl ester, 1.13 g (8.14 mmol) of K2CO3 and 1.6 mL (16.3 mmol) of 1-bromo-2-chloro-ethane in 10 mL of isobutyl methyl ketone was refluxed for 5 hours. After filtering, the solvent was removed under reduced pressure affording 0.98 g (94% yield) of 4-(2-chloro-ethoxy)-benzoic acid tert-butyl ester.

reactant | 4-hydroxy-benzoic acid tert-butyl ester | 4.1 mmol, 0.79 g | C(C)(C)(C)OC(C1=CC=C(C=C1)O)=O | C11H14O3
reactant | K2CO3 | 8.14 mmol, 1.13 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromo-2-chloro-ethane | 16.3 mmol, 1.6 mL | BrCCCl | C2H4BrCl
solvent | isobutyl methyl ketone | 10 mL | CC(=O)CC(C)C | C6H12O
product | 4-(2-chloro-ethoxy)-benzoic acid tert-butyl ester | 0.98 g, 94% yield | C(C)(C)(C)OC(C1=CC=C(C=C1)OCCCl)=O | C13H17ClO3
